US06770638B2
Synthesis of 9-{3-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]propyl}-1,9-dihydropurin-6-one
6-Chloro-9-{3-[4-(3-trifluoromethylphenyl)piperazin-1-yl]propyl}-9H-purine (200 mg) was dissolved in 3 mL of trifluoroacetic acid(TFA) and 1 mL of water and stirred for 16 hours at 25 C. The TFA was evaporated and 10 mL of 2N NaOH was added. The solution was extracted twice with 20 mL of dichloromethane. The organic layer was separated, dried with sodium sulfate and concentrated to give the title compound as an oil. The oil was dissolved in 5 mL of 50% dichloromethane in hexanes. A solution of 4N HCl in dioxane (200 uL) was added and the mixture stirred for 30 minutes followed by vacuum filtration of the suspension. A white powder of the product HCl salt was recovered.

reactant | 6-Chloro-9-{3-[4-(3-trifluoromethylphenyl)piperazin-1-yl]propyl}-9H-purine | 200 mg | ClC1=C2N=CN(C2=NC=N1)CCCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C19H20ClF3N6
reactant | water | 1 mL | O | H2O
product | 9-{3-[4-(3-Trifluoromethylphenyl)piperazin-1-yl]propyl}-1,9-dihydropurin-6-one | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCN1C=2N=CNC(C2N=C1)=O)(F)F | C19H21F3N6O
